US07615562B2
{6-Methoxy-3-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-indol-1-yl}-acetonitrile
A solution of [4-(6-Methoxy-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine (150 mg, 0.40 mmol) in 2 ml of THF was added to a suspension of sodium hydride (55.3 mg, 1.38 mmol, 60% mineral dispersion) in 2 ml of THF. 0.1 ml of DMF was added and stirring was continued for 15 minutes. Bromoacetonitrile (51.9 mg, 0.43 mmol) was then added and the solution was stirred for 5 hours. The solvent was removed and the residue was purified by flash chromatography on silicagel (EtOAc/MeOH/ammonia:5/1/0.05) to give the title compound. Yield: 142 mg (88%).

reactant | [4-(6-Methoxy-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 0.40 mmol, 150 mg | COC1=CC=C2C(=CNC2=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C22H29N5O
reactant | sodium hydride | 1.38 mmol, 55.3 mg | [H-].[Na+]
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | Bromoacetonitrile | 0.43 mmol, 51.9 mg | BrCC#N | C2H2BrN
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | {6-Methoxy-3-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-indol-1-yl}-acetonitrile | COC1=CC=C2C(=CN(C2=C1)CC#N)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C24H30N6O
